US05232925
2-[N-Isopropyl-N-(2-benzoxazolyl)amino]ethanol
2-Chlorobenzoxazole (23.04 g) was added dropwise to an ice-cooled solution of 2-(isopropylamino)ethanol 15.45 g) and triethylamine (30.3 g) in tetrahydrofuran (500 ml). The mixture was stirred at room temperature for 30 minutes, then heated at reflux overnight before being cooled and evaporated. The residue was dissolved in dichloromethane (800 ml) and washed with saturated sodium bicarbonate solution (500 ml), water (3×1 l) brine (1 l), dried (MgSO4), filtered and evaporated. The title compound was obtained as an oil following chromatography on silica gel using 1.5% methanol-dichloromethane as solvent.

reactant | 2-Chlorobenzoxazole | 23.04 g | ClC=1OC2=C(N1)C=CC=C2 | C7H4ClNO
reactant | 2-(isopropylamino)ethanol | 15.45 g | C(C)(C)NCCO | C5H13NO
reactant | triethylamine | 30.3 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 2-[N-Isopropyl-N-(2-benzoxazolyl)amino]ethanol | C(C)(C)N(C=1OC2=C(N1)C=CC=C2)CCO | C12H16N2O2
